US08058269B2
At room temperature, 4-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-cyclobutylcarbamoylmethyl-amino}-piperidine-1-carboxylic acid tert-butyl ester (700 mg, 1.17 mmol) was dissolved a mixture solution of CF3COOH and CH2Cl2. After stirred 0.5 h, the solution was concentrated and the organic layer was washed with NaOH aqueous solution. The organic layer was dried, concentrated to obtain crude product. The crude product was purified by chromatography to obtain 200 mg rac-2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidin-4-yl-amino}-N-cyclobutyl-acetamide.

reactant | 4-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-cyclobutylcarbamoylmethyl-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.17 mmol, 700 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC(NC1CCC1)=O)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C31H38Cl2N4O4
reactant | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | rac-2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidin-4-yl-amino}-N-cyclobutyl-acetamide | 200 mg | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N(CC(=O)NC1CCC1)C1CCNCC1 | C26H30Cl2N4O2
